US03966792
Dimethyl 3-cyclohexyl-2-oxo-butylphosphonate
74.5 g. of dimethyl methylphosphonate were dissolved in 514 ml. of tetrahydrofuran and the solution cooled to -60°C. To this solution a solution of butyllithium [prepared from 40.5 g. of butyl bromide and 9.2 g. of lithium] in 240 ml. of diethyl ether was added dropwise. A solution of 39.5 g. of ethyl 2-cyclohexylpropionate in 130 ml. of tetrahydrofuran was added drop-wise and the mixture stirred at the same temperature for two hours and afterwards at 0°C. overnight. The reaction mixture was then neutralised to pH 7 with acetic acid, concentrated under reduced pressure and, after the addition of water to the residue, extracted with diethyl ether. After drying the ethereal extract, the solvent was distilled off and the residue subjected to distillation under reduced pressure to obtain 40 g. (yield 30.2%) of the title compound as a colourless oil, b.p. 140°C./0.2-0.3 mm.Hg. Nuclear magnetic resonance (hereinafter abbreviated to NMR) spectrum (tetrachloromethane): δ = 3.82 (6 H, doublet, 3.18 (2H, doublet), 2.80 - 2.30 (1H, multiplet), 2.1 - 0.65 (14H, multiplet).

reactant | dimethyl methylphosphonate | CP(OC)(OC)=O | C3H9O3P
reactant | butyllithium | 40.5 g | C(CCC)[Li]
reactant | ethyl 2-cyclohexylpropionate | C1(CCCCC1)C(C(=O)OCC)C | C11H20O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Dimethyl 3-cyclohexyl-2-oxo-butylphosphonate | yield 30.2% | C1(CCCCC1)C(C(CP(OC)(OC)=O)=O)C | C12H23O4P
